US07183287B2
Preparation of (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide
The title compound was prepared in a similar manner as described for (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-[(1R)-2-hydroxy-1-methylethyl]-4-methylbenzamide substituting R-2-amino-1-propanol with 2-aminoethanol. Yield 70%. 1H NMR (CD3OD/400 MHz) δ 7.91 (d, 1H,J=1.6 Hz, & 6.4 Hz), 7.68 (d, 1H, J=2.0 Hx), 7.60 (m, 1H), 7.54 (d, 1H, J=8.0 Hz), 7.01 (m, 2H), 5.57 (abq, 2H), 3.67 (t, 2H, J=6.0 Hz), 3.49(t, 2H, J=6.0 Hz), 2.17 (s, 3H), and 2.13 (s, 3H); ES-HRMS m/z 508.0659 (M+H calcd for C22H21N3O4F2Br requires 508.0678). 19F NMR (CD3OD/400 MHz) −111.85(m) and −115.90 (m).

reactant | (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-[(1R)-2-hydroxy-1-methylethyl]-4-methylbenzamide | BrC1=C(N=C(N(C1=O)C=1C=C(C(=O)N[C@@H](CO)C)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C23H22BrF2N3O4
reactant | 2-aminoethanol | NCCO | C2H7NO
product | (±)3-[5-bromo-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide | Yield 70% | BrC1=C(N=C(N(C1=O)C=1C=C(C(=O)NCCO)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C22H20BrF2N3O4
